US04599344
N-[4-(2-(1-Azabicyclo[2.2.2]oct-3-ylidene)ethyl)phenyl]-methanesulfonamide hydrochloride
To 4.57 g (0.02 mole) of 3-[2-(4-aminophenyl)ethylidene]1-azabicyclo[2.2.2]octane dissolved in 100 ml of methylene chloride, cooled to -50° C., under a nitrogen atmosphere add dropwise a solution of 2.86 g (0.025 mole) of methanesulfonyl chloride in 25 ml of methylene chloride. After the addition is complete stir the reaction for one-half hour at -50° C. then allow to warm to room temperature. Stir at room temperature for one hour. Follow the progress of the reaction by thin-layer chromatography on silica gel (acetonitrile:ammonium hydroxide, 95:5). At the completion of the reaction add 5 ml of water to the reaction mixture then strip the methylene chloride in vacuo. Add 50 ml of 10% sodium hydroxide. Wash the mixture with three 25 ml portions of ether and one 25 ml portion of methylene chloride. Bring the aqueous base mixture to pH=8-8.5 by the addition of 5% hydrochloric acid solution. Extract the mixture with four 100 ml portions of methylene chloride. Wash the combined methylene chloride extracts with a 50 ml portion of water and then with a 50 ml portion of saturated sodium chloride solution. Dry the methylene chloride extracts over anhydrous sodium sulfate, filter and remove the solvent in vacuo to provide the title compound as the free base.

reactant | 3-[2-(4-aminophenyl)ethylidene]1-azabicyclo[2.2.2]octane | 0.02 mole, 4.57 g | NC1=CC=C(C=C1)CC=C1CN2CCC1CC2 | C15H20N2
reactant | methanesulfonyl chloride | 0.025 mole, 2.86 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 5 ml | O | H2O
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(2-(1-Azabicyclo[2.2.2]oct-3-ylidene)ethyl)phenyl]-methanesulfonamide hydrochloride | Cl.N12CC(C(CC1)CC2)=CCC2=CC=C(C=C2)NS(=O)(=O)C | InChI=1S/C16H22N2O2S.ClH/c1-21(19,20)17-16-6-3-13(4-7-16)2-5-15-12-18-10-8-14(15)9-11-18;/h3-7,14,17H,2,8-12H2,1H3;1H
